US04585772
9-Isovaleroylamino-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline
2.5 g (0.02 mol) of isovaleric acid chloride were added to 2.02 g (0.01 mol) of 9-amino-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline in 30 ml of absolute pyridine, and the mixture was stirred for 8 hours at room temperature. The mixture was then diluted with ether, and the precipitated crystals were separated off. The crystals were dissolved in water, the aqueous solution was purified with active charcoal and the free base was then precipitated by the addition of ammonia. It was filtered off under suction and dried.

reactant | isovaleric acid chloride | 0.02 mol, 2.5 g | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | 9-amino-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | 0.01 mol, 2.02 g | NC1=CC=2C=3N(C(NC2C=C1)=O)CCN3 | C10H10N4O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 9-Isovaleroylamino-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | C(CC(C)C)(=O)NC1=CC=2C=3N(C(NC2C=C1)=O)CCN3 | C15H18N4O2
